US07745484B2
Step 2: 3-Methyl-1-(methylsulfinyl)-1-(methylthio)cyclobutane
Methylsulfinyl(methylthio)methane (29.927 g, 240.91 mmol) was dissolved in 500 ml THF and cooled to −10° C. Butyllithium (96.363 ml, 240.91 mmol) was added slowly and stirring was continued for 2 h. 1,3-Ditosyloxy-2-methyl-propane (48.000 g, 120.45 mmol) was added at −10° C. and the mixture was allowed to warm up to RT. Stirring was continued over night. 150 ml H2O was added and the mixture was extracted with DCM, dried over MgSO4 and evaporated. The crude material was filtered through a silica plug and used without further purification in the next step.

reactant | Methylsulfinyl(methylthio)methane | 240.91 mmol, 29.927 g | CS(=O)CSC | C3H8OS2
reactant | Butyllithium | 240.91 mmol, 96.363 ml | C(CCC)[Li]
reactant | 1,3-Ditosyloxy-2-methyl-propane | 120.45 mmol, 48.000 g | S(=O)(=O)(C1=CC=C(C)C=C1)OCC(COS(=O)(=O)C1=CC=C(C)C=C1)C | C18H22O6S2
reactant | H2O | 150 ml | O | H2O
solvent | THF | 500 ml | C1CCOC1 | C4H8O
product | 3-Methyl-1-(methylsulfinyl)-1-(methylthio)cyclobutane | CC1CC(C1)(SC)S(=O)C | C7H14OS2
